US06881733B1
1-benzyl-3-methyl-4-(4,5,6-trifluorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine
Beginning with 1.3 gm (3.46 mMol) 1-benzyl-3-methyl-4-hydroxy-4-(4,5,6-trifluorobenzofur-7-yl)piperidine and 6.6 gm p-toluenesulfonic acid monohydrate, the desired compound was prepared essentially as described in EXAMPLE 3.

reactant | 1-benzyl-3-methyl-4-hydroxy-4-(4,5,6-trifluorobenzofur-7-yl)piperidine | 3.46 mMol, 1.3 gm | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C(=C(C=2C=COC21)F)F)F)O)C | C21H20F3NO2
reactant | p-toluenesulfonic acid monohydrate | 6.6 gm | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1-benzyl-3-methyl-4-(4,5,6-trifluorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CC(C(=CC1)C1=C(C(=C(C=2C=COC21)F)F)F)C | C21H18F3NO
